US06191150B1
(2S,3R)-2-amino-3-methyl-5-(imino-amino)methylammoniumpentanoic acid nitrate trifluoroacetate (1.04 g) is dissolved in 1 mL concentrated H2SO4 and cooled in an ice/acetone bath with stirring. A precooled (−15° C.) mixture of fuming sulfuric acid (2.5 mL) and fuming nitric acid (1.7 mL) is added and the thick mixture is stirred for 2 h at −10 to −15° C. Ice is added followed by the cautious addition of concentrated NH4OH to pH 8. The mixture is then acidified to pH 5 with acetic acid. Volatiles are removed in vacuo to provides a yellow solid which is triturated for 1 h in methanol then sonicated for 10 min. Filtration through glass provides the product as a yellow solid contaminated with NH4Cl (ESI-MS m/z 234 (M+H)+). The crude (2S,3R)-2-amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid is dissolved in 15 mL of 5% sodium bicarbonate, concentrated to dryness, then taken up again in 10 mL of 5% sodium bicarbonate. THF (10 mL) is added, followed by di-tert-butyl dicarbonate (465 mg, 2.13 mmol). After stirring for 18 h, additional sodium bicarbonate (5 g) and di-tert-butyl dicarbonate (50 mg) is added. After 4 d the reaction mixture is extracted with ether, acidified to pH 1 with 6 N HCl, then extracted with dichloromethane, saturated with solid sodium chloride, then extracted further with dichloromethane. The combined dichloromethane layers are washed with saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated in vacuo to provide crude (2S,3R)-2-tert-butoxycarbonylamino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid (125 mg).

reactant | NH4Cl | [NH4+].[Cl-]
reactant | (2S,3R)-2-amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid | N[C@H](C(=O)O)[C@@H](CCNCN=N[N+](=O)[O-])C | C7H15N5O4
reactant | di-tert-butyl dicarbonate | 2.13 mmol, 465 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 50 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
product | (2S,3R)-2-tert-butoxycarbonylamino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid | 125 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](CCNCN=N[N+](=O)[O-])C | C12H23N5O6
